US07598257B2
4-Bromo-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine (0.20 g, 0.00061 mol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.15 g, 0.00079 mol) were combined in DMF (5.0 mL, 0.064 mol) and then potassium carbonate (0.25 g, 0.0018 mol) in 1 mL water was added. The reaction was degassed with nitrogen, then tetrakis(triphenylphosphine)-palladium(0) (0.08 g, 0.00007 mol) was added and in a sealed tube the reaction was heated to 120° C. oil bath. The reaction was heated for 30 minutes, allowed to cool and then taken up in ethyl acetate. The reaction mixture was washed with brine, dried over magnesium sulfate and concentrated to give an oil. The product was purified by FCC on silica gel eluting with a hexane:ethyl acetate gradient to give 4-(1H-pyrazol-4-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine (0.13 gm, 70%) as a crystalline white powder, LC/MS (M+H)+: 315, 1H NMR (DMSO-d6) δ 13.35 (bs, 1H), 8.59 (bs, 1H), 8.32 (d, 1H, J=8.5), 8.26 (bs, 1H), 7.76 (d, 1H, J=6.0), 7.45 (d, 1H, J=8.5), 7.01 (d, 1H, J=6.0), 5.73 (s, 2H), 3.61 (t, 2H), 0.92 (t, 2H), 0.0 (s, 9H).

reactant | 4-Bromo-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.00061 mol, 0.20 g | BrC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19BrN2OSi
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.00079 mol, 0.15 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | DMF | 0.064 mol, 5.0 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.0018 mol, 0.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.00007 mol, 0.08 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(1H-pyrazol-4-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.13 gm, 70% | N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C16H22N4OSi
